Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
2 days of worsening redness over left mastectomy/tissue expander 
site and fever
 
Major Surgical or Invasive Procedure:
Removal of Left Breast Tissue Expander, Irrigation and 
Debridement
 
History of Present Illness:
___ is a ___ year old female with PMH notable for 
BRCA gene mutation, breast CA, DM, HTN, and multiple episodes of 
breast erythema previously managed with antibiotics.  She is 
currently undergoing chemotherapy.  Per the patient the left 
breast became firm 2 days ago and today the patient measured a 
temp of 101.9.  She denies pain ___ the left breast and otherwise 
is comfortable without systemic constitutional symptoms of 
infection.  She denies drainage from the breast.  She is s/p 
mastectomy with B/L tissue expander placement on ___.

 
Past Medical History:
Breast CA
DM
HTN
BRCA gene mutation
.
PSH:
Bilateral Mastectomy
Bilateral Tissue expander placement    
Left tissue expander explant ___
 
Social History:
___
Family History:
The Family History was reviewed and is,non-contributory for a 
past history of infection or immunocompromised state. 

 
Physical Exam:
Physical exam per plastic surgery post op  check on ___:
VS - ___ 2151 Temp: 99.0 PO HR: 94 BP: 123/84 R Lying RR: 
18
O2 sat: 96% O2 delivery: RA 
___ PO Amt: 240ml IV Amt Infused: 1608ml 
___ Urine Amt: 600ml left breast JP: 50ml 
GEN: Resting comfortably ___ bed
CV: RRR
PULM: No respiratory distress
CHEST: L breast incision site covered with Xeroform gauze;
surrounding area indurated with dull erthyema. JP thin
serosanguinous.

 
Pertinent Results:
ADMISSION LABS:
___ 02:00PM   GLUCOSE-124* UREA N-4* CREAT-0.4 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-25 ANION GAP-10
___ 02:00PM   estGFR-Using this
___ 02:00PM   WBC-6.9 RBC-3.47* HGB-9.5* HCT-28.9* MCV-83 
MCH-27.4 MCHC-32.9 RDW-15.2 RDWSD-45.8
___ 02:00PM   PLT COUNT-184
___ 10:35PM   LACTATE-1.4
.
DISCHARGE LABS:
___ 11:50AM BLOOD WBC-5.5 RBC-3.38* Hgb-9.4* Hct-28.8* 
MCV-85 MCH-27.8 MCHC-32.6 RDW-15.7* RDWSD-47.0* Plt ___
___ 06:25AM BLOOD Glucose-157* UreaN-4* Creat-0.4 Na-141 
K-4.3 Cl-105 HCO3-26 AnGap-10
___ 06:25AM BLOOD CK(CPK)-38
___ 06:25AM BLOOD Calcium-8.5 Phos-3.6 Mg-1.8
___ 11:50AM BLOOD CRP-60.3*
.
MICROBIOLOGY:
___ 10:36 pm BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      STAPH AUREUS COAG +. 
         Consultations with ID are recommended for all blood 
cultures
         positive for Staphylococcus aureus, yeast or other 
fungi. 
         FINAL SENSITIVITIES. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 
         Daptomycin Susceptibility testing requested per ___ 
___
         (___) (___). 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI ___ CLUSTERS. 
      Reported to and read back by ___ (___) ON 
___ @
      ___. 
.
___ 6:50 pm SWAB      LEFT BREAST POCKET. 

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    MODERATE GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------ <=0.5 S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 

   FUNGAL CULTURE (Preliminary): 

   ACID FAST SMEAR (Preliminary): 

   ACID FAST CULTURE (Preliminary): 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 
.

 
Brief Hospital Course:
The patient was admitted to the plastic surgery service on 
___ with + fevers and a warm, tender and reddened tissue 
expander breast pocket.  She was then taken to the OR for a 
Removal of left breast tissue expander.  The patient tolerated 
the procedure well. 
 .
 Neuro: Post-operatively, the patient received IV pain 
medication post operatively with good effect and adequate pain 
control. When tolerating oral intake, the patient was 
transitioned to oral pain medications. 
 .
 CV: The patient was stable from a cardiovascular standpoint; 
vital signs were routinely monitored.
 .
 Pulmonary: The patient was stable from a pulmonary standpoint; 
vital signs were routinely monitored.
 .
 GI/GU: Post-operatively, the patient was given IV fluids until 
tolerating oral intake.  Her diet was advanced when appropriate, 
which was tolerated well. She was also started on a bowel 
regimen to encourage bowel movement. Intake and output were 
closely monitored. 
 .
 ID: Post-operatively, the patient was started on IV vancomycin 
and ceftriaxone. A swab from the tissue expander pocket and 
blood cultures were also obtained and sent. Both cultures grew 
MRSA and an infectious disease consult was requested.  Patient 
was started on vancomycin lock therapy to port until decision 
was made to remove the port on ___ (hospital day # 4, 
POD#3). A TTE produced suboptimal image quality so the patient 
was then sent for a TEE which showed: Mild mitral regurgitation 
with mild leaflet thickening but no discrete vegetation or 
abscess. Trace aortic regurgitation with normal valve 
morphology.  An ultrasound study of the right IJ was obtained to 
rule out thrombus of the vessel which was negative.  Ceftriaxone 
and vancomycin were discontinued on POD#4 ___ favor of daptomycin 
IV, per ID recommendation.  The patient tolerated the test dose 
well.  A PICC line was placed for long term antibiotic therapy, 
surveillance blood draws and possibly more chemotherapy 
treatments.  The patient's temperature was closely watched for 
signs of infection. 
 .
 Prophylaxis: The patient received subcutaneous heparin during 
this stay, and was encouraged to get up and ambulate as early as 
possible. 
 .
 At the time of discharge on POD#6, the patient was doing well, 
afebrile with stable vital signs, tolerating a regular diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  Left breast incision was intact with much improved 
redness and swelling.  JP x 1 with minimal serous drainage.

 
Medications on Admission:
Atenolol 50 mg PO DAILY  
Escitalopram Oxalate 20 mg PO DAILY  
Glargine 20 Units Bedtime Insulin SC Sliding Scale using REG 
Insulin  
Lisinopril 10 mg PO DAILY  
LORazepam 0.5 mg PO Q6H:PRN anxiety  
Ranitidine 150 mg PO BID  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Daptomycin 480 mg IV Q24H 
RX *daptomycin 500 mg 480 mg IV Every 24 hours Disp #*25 Vial 
Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every ___ hours Disp 
#*15 Tablet Refills:*0 
4.  Atenolol 50 mg PO DAILY  
5.  Escitalopram Oxalate 20 mg PO DAILY  
6.  Glargine 20 Units Bedtime
Insulin SC Sliding Scale using REG Insulin 
7.  Lisinopril 10 mg PO DAILY  
8.  LORazepam 0.5 mg PO Q6H:PRN anxiety  
9.  Ranitidine 150 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1) L breast cellulitis
2) L breast tissue expander infection (MRSA)
3) MRSA bacteremia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Personal Care:  
  1. You may leave your incision open to air or you may cover 
with a clean, dry dressing daily.  
  2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  
  3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
  4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. Your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.  
  5. You may shower daily. No baths until instructed to do so by 
Dr. ___.  
  6. You should perform ___ care and follow ___ precautions as 
you were shown ___ the hospital and by infusion nurse.
  .  
  Activity:  
  1. You may resume your regular diet.  
  2. DO NOT lift anything heavier than 5 pounds or engage ___ 
strenuous activity until instructed by Dr. ___.  
  .  
  Medications:  
  1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered.  
  2. You may take your prescribed pain medication for moderate 
to severe pain. You may switch to Tylenol or Extra Strength 
Tylenol for mild pain as directed on the packaging.    
 3. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.  
  4.  Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high ___ fiber.  
 .  
  Call the office IMMEDIATELY if you have any of the following:  

  1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
  2. A large amount of bleeding from the incision(s) or 
drain(s).  
  3. Fever greater than 101.5 oF  
  4. Severe pain NOT relieved by your medication.  
  .  
  Return to the ER if:  
  * If you are vomiting and cannot keep ___ fluids or your 
medications.  
  * If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
  * Any serious change ___ your symptoms, or any new symptoms 
that concern you.  
  .  
 DRAIN DISCHARGE INSTRUCTIONS  
You are being discharged with drains ___ place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction. 
 
Followup Instructions:
___